US08877782B2
g) 6-[3-(4-Fluoro-phenyl)-isoxazol-4-ylmethoxy]-N-isopropyl-nicotinamide
As described for example 84f, 6-[3-(4-fluoro-phenyl)-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (150 mg, 0.46 mmol) was converted, instead of [6-[3-(2-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester, using isopropylamine instead of 2,2,2-trifluoroethylamine, to the title compound (160 mg, 98%) which was obtained as a white solid. MS: m/e=356.3 [M+H]+.

reactant | 6-[3-(4-fluoro-phenyl)-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 0.46 mmol, 150 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1)C1=CC=C(C=C1)F)=O | C17H13FN2O4
reactant | 6-[3-(2-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=C(C=CC=C1)F)=O | C18H15FN2O4
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 6-[3-(4-Fluoro-phenyl)-isoxazol-4-ylmethoxy]-N-isopropyl-nicotinamide | 160 mg, 98% | FC1=CC=C(C=C1)C1=NOC=C1COC1=NC=C(C(=O)NC(C)C)C=C1 | C19H18FN3O3
